US05847146
39.1 g (0.315 mol) of benzylmercaptan are introduced into 200 ml of acetonitrile, 47.8 g (0.346 mol) of K2CO3 are added, and the mixture is stirred for 40 minutes at 60° C. 50.0 g (0.315 mol) of 2-chloro-3-nitropyridine, dissolved in 150 ml of acetonitrile, are subsequently added dropwise and the mixture is refluxed for 4 hours. The acetonitrile is distilled off under reduced pressure, the residue is taken up in dichloromethane, the organic phase is washed in each case once with saturated sodium hydrogen carbonate solution and with 1N hydrochloric acid, the organic phase is dried over magnesium sulfate and the drying agent is filtered off, and the dichloromethane is removed under reduced pressure. Recrystallization from methanol gives 60.9 g (79% of theory) of 2-benzyl-3-nitropyridine of melting point 72° C.

reactant | benzylmercaptan | 0.315 mol, 39.1 g | C(C1=CC=CC=C1)S | C7H8S
reactant | K2CO3 | 0.346 mol, 47.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-3-nitropyridine | 0.315 mol, 50.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-benzyl-3-nitropyridine | 60.9 g, 79% | C(C1=CC=CC=C1)C1=NC=CC=C1[N+](=O)[O-] | C12H10N2O2
